US04270946
There were combined 14.1 grams (0.05 mole) 2-(3-trifluoromethylphenoxy) nicotinic acid, 0.1 grams triethylamine hydrochloride and 150 milliliters of chloroform. The mixture was stirred and heated to reflux. Then, 6.5 grams (0.055 mole) thionyl chloride was slowly added. After addition was complete the reaction mass was heated under reflux until hydrogen chloride evolution had ceased (about 30 minutes); it was then cooled to room temperature, filtered, and the solvent removed under vacuum producing 10.0 grams (66.7% of theoretical yield) of 2-(3-trifluoromethylphenoxy) nicotinoyl chloride. The structure was confirmed by infrared spectral analysis.

reactant | 2-(3-trifluoromethylphenoxy) nicotinic acid | 0.05 mole, 14.1 grams | FC(C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H8F3NO3
reactant | thionyl chloride | 0.055 mole, 6.5 grams | S(=O)(Cl)Cl | Cl2OS
reactant | hydrogen chloride | Cl | ClH
catalyst | triethylamine hydrochloride | 0.1 grams | Cl.C(C)N(CC)CC
solvent | chloroform | 150 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-trifluoromethylphenoxy) nicotinoyl chloride | 10.0 grams, 66.7% | FC(C=1C=C(OC2=C(C(=O)Cl)C=CC=N2)C=CC1)(F)F | C13H7ClF3NO2
